US07414063B2
Isoquinoline-5-sulfonic acid {2-[2-(5,2′-difluoro-biphenyl-2-yloxy)-ethylamino]-ethyl}-amide di-hydrochloric acid
Aqueous sodium carbonate (0.18 mL, 2.0 M) is added to a stirred solution of [2-(2-bromo-4-fluoro-phenoxy)-ethyl]-[2-(isoquinoline-5-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester (0.101 g, 0.179 mmol), 2-fluorophenyl boronic acid (26 mg, 0.19 mmol), Pd(dppb)2Cl2 (43 mg, 0.072 mmol) in DMF (3 mL)/MeOH (0.8 mL). The resultant mixture is heated at 80° C. under argon for 16 hours. At ambient temperature ethyl acetate (10 mL) and brine (3 mL) are added to the mixture, the organic layer is separated, dried, filtered and concentrated. After MPLC separation on silica (gradient 0-1% methanol in methylene chloride), 90 mg (86% yield) of the BOC-protected title compound is obtained. The precursor is dissolved in methylene chloride (10 mL), then a small stream of anhydrous HCl gas is bubbled through the solution for 1 minute. The solution is capped with a glass stopper and allowed to stir for 1 hour to form a suspension. After filtration and drying, 70 mg (86% yield) of the title compound is obtained as a solid. ESIMS: m/z 484 (M+H)+.

reactant | sodium carbonate | 2.0 M, 0.18 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | [2-(2-bromo-4-fluoro-phenoxy)-ethyl]-[2-(isoquinoline-5-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester | 0.179 mmol, 0.101 g | C(C)(C)(C)OC(N(CCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1)CCOC1=C(C=C(C=C1)F)Br)=O | C24H27BrFN3O5S
reactant | 2-fluorophenyl boronic acid | 0.19 mmol, 26 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | MeOH | 0.8 mL | CO | CH4O
reactant | brine | 3 mL | [Cl-].[Na+].O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | Isoquinoline-5-sulfonic acid {2-[2-(5,2′-difluoro-biphenyl-2-yloxy)-ethylamino]-ethyl}-amide di-hydrochloric acid | Cl.Cl.FC=1C=CC(=C(C1)C1=C(C=CC=C1)F)OCCNCCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1 | InChI=1S/C25H23F2N3O3S.2ClH/c26-19-8-9-24(22(16-19)21-5-1-2-6-23(21)27)33-15-14-28-12-13-30-34(31,32)25-7-3-4-18-17-29-11-10-20(18)25;;/h1-11,16-17,28,30H,12-15H2;2*1H
